US07598391B2
4-[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-piperazine-1-sulfonic acid dimethylamide
Prepared as described in general procedure (P) using 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea (84 mg, 0.25 mmol), piperazine-1-sulfonic acid dimethyl amide hydrochloride (115 mg, 0.50 mmol) and sodium triacetoxyborohydride (70 mg, 0.33 mmol) to afford 54 mg (42%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea | 0.25 mmol, 84 mg | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCCCC1 | C17H25N3O2S
reactant | piperazine-1-sulfonic acid dimethyl amide hydrochloride | 0.50 mmol, 115 mg | Cl.CN(S(=O)(=O)N1CCNCC1)C
reactant | sodium triacetoxyborohydride | 0.33 mmol, 70 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 4-[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-piperazine-1-sulfonic acid dimethylamide | 54 mg, 42% | CN(S(=O)(=O)N1CCN(CC1)CC1=CN=C(S1)NC(=O)N(C1CCCCC1)C1CCCCC1)C | C23H40N6O3S2
